US07662809B2
Step 3: 14-cyclohexyl-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylic Acid
To a solution of methyl 14-cyclohexyl-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate in DCM (0.1 M), 5 eq of BBr3 (1 M sol. in DCM) were added. The solution was stirred at RT for 20 mins. The solvent was evaporated in vacuo. The crude was then purified by automated prep RP-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×100 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound (60% over two steps).

reactant | methyl 14-cyclohexyl-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCCN(C3=C(C21)C=CC=C3)C)C(=O)OC | C26H30N2O2
reactant | BBr3 | 1 M, 5 eq | B(Br)(Br)Br | BBr3
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | 14-cyclohexyl-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylic Acid | 60% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCCN(C3=C(C21)C=CC=C3)C)C(=O)O | C25H28N2O2
